US08242104B2
(2S,3S)-2-Carbamoyl-3-methoxy-pyrrolidine-1-carboxylic acid tert-butyl ester (120 mg, 0.49 mmol) was stirred in hydrochloric acid (5 mL, 3M in methanol) and methanol for 4 h. The reaction mixture was concentrated in vacuo and the residue triturated in diethyl ether and methanol to give (2S,3S)-3-Methoxy-pyrrolidine-2-carboxylic acid amide hydrochloride salt as a white solid (69 mg, 38%). 1H NMR 400 MHz (DMSO-d6) δ: 8.28 (1H, br, s), 7.82 (1H, br, s), 4.23 (1H, m), 4.11-4.10 (1H, m), 3.37 (1H, m), 3.35 (3H, s), 3.19-3.16 (1H, m), 2.07 (1H, m), 1.84-1.83 (1H, m)

reactant | (2S,3S)-2-Carbamoyl-3-methoxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.49 mmol, 120 mg | C(C)(C)(C)OC(=O)N1[C@@H]([C@H](CC1)OC)C(N)=O | C11H20N2O4
reactant | methanol | CO | CH4O
reactant | hydrochloric acid | 3M, 5 mL | Cl | ClH
product | (2S,3S)-3-Methoxy-pyrrolidine-2-carboxylic acid amide hydrochloride salt | 69 mg, 38% | Cl.CO[C@@H]1[C@H](NCC1)C(=O)N | InChI=1S/C6H12N2O2.ClH/c1-10-4-2-3-8-5(4)6(7)9;/h4-5,8H,2-3H2,1H3,(H2,7,9);1H/t4-,5-;/m0./s1
